US07528147B2
A suspension of 1 g of 4-chloro-2-(5,6-dimethoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine, 0.655 g of 4-(2-chloroethyl)morpholine hydrochloride and 1.11 g of potassium carbonate in 10 ml of dimethylformamide is heated at around 95° C. for approximately 3 hours. After cooling to a temperature in the region of 20° C., the reaction mixture is run into 20 ml of water, and extracted with three times 100 ml of ethyl acetate. The combined organic phases are washed with 100 ml of a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (13 kPa). The residue is purified by flash chromatography on a silica column [eluent: cyclohexane/ethyl acetate (90/10 by volume)]. 0.54 g of 4-chloro-2-[5,6-dimethoxy-1-(2-morpholin-4-ylethyl)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine is obtained in the form of a solid, the characteristics of which are as follows:

reactant | 4-chloro-2-(5,6-dimethoxy-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 1 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CNC1=CC(=C(C=C21)OC)OC)S(=O)(=O)C2=CC=C(C=C2)C | C24H20ClN3O4S
reactant | 4-(2-chloroethyl)morpholine hydrochloride | 0.655 g | Cl.ClCCN1CCOCC1
reactant | potassium carbonate | 1.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-chloro-2-[5,6-dimethoxy-1-(2-morpholin-4-ylethyl)-1H-indol-3-yl]-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.54 g | ClC1=C2C(=NC=C1)N(C(=C2)C2=CN(C1=CC(=C(C=C21)OC)OC)CCN2CCOCC2)S(=O)(=O)C2=CC=C(C=C2)C | C30H31ClN4O5S
